US08378110B1
To a solution of nornicotine (50 g 0.338 mol) in 100 ml water a mixture of 37% formaldehyde (49.7 g, 1.656 mol) and 85% formic acid (37.26 g 0.81 moles) was added and stirred at 85° C. for 20 hrs. The reaction was cooled and pH adjusted to >13 using NaOH, extracted with dichloromethane (100 ml×3) dried over Na2SO4 and solvent removed completely to get crude oil (52.5 g, 94.33% purity by GC). It was further purified by high vacuum distillation at 0.1 mm Hg to obtain colorless (R,S)-nicotine (44.54 g, 81.3% yield, 99.1% purity by GC). 1H NMR (CDCl3): δ 1.72-2.0 (3H, m), 2.1 (3H, s), 2.25 (1H, m), 2.3 (1H, m), 3.08 (1H, m), 3.23 (1 h, t), 7.25 (1H, m), 7.69 (1H, dt), and 8.5 (2H, m). 13C-NMR (CDCl3): 149.71, 148.76, 139, 134.97, 123.7, 68.9, 57.1, 40.5, 35.5, and 22.83. IR: 3233, 1642, and 1402 Cm−1.

reactant | nornicotine | 0.338 mol, 50 g | C1=CC(=CN=C1)C2CCCN2 | C9H12N2
reactant | formaldehyde | 1.656 mol, 49.7 g | C=O | CH2O
reactant | formic acid | 0.81 moles, 37.26 g | C(=O)O | CH2O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | (R,S)-nicotine | 44.54 g, 81.3% yield | CN1CCCC1C2=CN=CC=C2 | C10H14N2
